US09376454B2
Step 3. Synthesis of (R)-3-(2-carboxybenzamido)-2-hydroxy-3,4-dihydro-2H-benzo[e][1,2]oxaborinine-8-carboxylic acid
To 20 mg of (R)-3-(1,3-dioxoisoindolin-2-yl)-2-hydroxy-3,4-dihydro-2H-benzo[e][1,2]oxaborinine-8-carboxylic acid in a mixture of methanol and H2O (2 mL, 1:1) was added 1 N NaOH (0.5 mL) and the resulting reaction mixture was stirred at room temperature for 3 hr. 1N HCl was added to adjust the pH of the solution to 3. The product was then purified by reverse phase HPLC and dried using lyophilization. ESI-MS m/z 356 (MH)+.

reactant | (R)-3-(1,3-dioxoisoindolin-2-yl)-2-hydroxy-3,4-dihydro-2H-benzo[e][1,2]oxaborinine-8-carboxylic acid | 20 mg | O=C1N(C(C2=CC=CC=C12)=O)[C@@H]1B(OC2=C(C1)C=CC=C2C(=O)O)O | C17H12BNO6
reactant | NaOH | 1 N, 0.5 mL | [OH-].[Na+]
reactant | HCl | 1N | Cl | ClH
solvent | methanol | CO | CH4O
solvent | H2O | 2 mL | O | H2O
product | (R)-3-(2-carboxybenzamido)-2-hydroxy-3,4-dihydro-2H-benzo[e][1,2]oxaborinine-8-carboxylic acid | C(=O)(O)C1=C(C(=O)N[C@@H]2B(OC3=C(C2)C=CC=C3C(=O)O)O)C=CC=C1 | C17H14BNO7
